US08207164B2
b) [1-(2-Fluoro-phenyl)-1-trifluoromethyl-but-3-enyl]-carbamic acid tert-butyl ester
To a solution of [2,2,2-Trifluoro-1-(2-fluoro-phenyl)-eth-(Z)-ylidene]-carbamic acid tert-butyl ester (16.63 g, 57.1 mmol) in 170 mL THE at −75° was added dropwise allylmagnesium chloride solution 2 mol/L in THF (31.4 ml, 62.8 mmol). The reaction temperature was not allowed to exceed −60° C. After 30 minutes, the reaction was quenched with 10% aqueous NH4Cl and extracted with TBME. The organic phase was washed with brine, dried with MgSO4.H2O and evaporated. The crude product was chromatographed on silica gel with hexane/TBME 95/5 to give 18.52 g of the title compound.

reactant | [2,2,2-Trifluoro-1-(2-fluoro-phenyl)-eth-(Z)-ylidene]-carbamic acid tert-butyl ester | 57.1 mmol, 16.63 g | C(C)(C)(C)OC(\N=C(/C(F)(F)F)\C1=C(C=CC=C1)F)=O | C13H13F4NO2
reactant | allylmagnesium chloride | 2 mol/L | C(C=C)[Mg]Cl
reactant | THF | 62.8 mmol, 31.4 ml | C1CCOC1 | C4H8O
product | [1-(2-Fluoro-phenyl)-1-trifluoromethyl-but-3-enyl]-carbamic acid tert-butyl ester | 18.52 g | C(C)(C)(C)OC(NC(CC=C)(C(F)(F)F)C1=C(C=CC=C1)F)=O | C16H19F4NO2
